US05686482
A 1.61 g portion of 4-isopropoxy-2-methoxybenzoic acid was dissolved in 20 ml of acetic anhydride, 0.38 ml of concentrated nitric acid and a small amount of acetic acid were added, followed by stirring at room temperature for 2 hours. After completion of the reaction, the reaction solution was poured on crushed ice, extracted with chloroform and then dried over anhydrous sodium sulfate. After evaporation of the solvent under a reduced pressure, the resulting residue was dissolved in 5 ml of tetrahydrofuran and 5 ml of 1N sodium hydroxide aqueous solution, followed by stirring for 1 hour. The reaction solution was poured into 1N hydrochloric acid aqueous solution, extracted with chloroform and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure and the resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:1-10:1) to give 0.43 g of 4-isopropoxy-2-methoxy-5-nitrobenzoic acid.

reactant | 4-isopropoxy-2-methoxybenzoic acid | C(C)(C)OC1=CC(=C(C(=O)O)C=C1)OC | C11H14O4
reactant | nitric acid | 0.38 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-isopropoxy-2-methoxy-5-nitrobenzoic acid | 0.43 g | C(C)(C)OC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OC | C11H13NO6
